US07160875B2
(S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid was coupled with 2,2,3,3,3-pentafluoropropylamine in analogy to the procedure described for RJR 7 to yield (R)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide as white solid.

reactant | (S)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-malonamic acid | C1(CC1)CN1C2=C(C3=C([C@@H](C1=O)NC([C@](C(=O)O)(C)F)=O)C=CC=C3)C=CC=C2 | C22H21FN2O4
reactant | 2,2,3,3,3-pentafluoropropylamine | FC(CN)(C(F)(F)F)F | C3H4F5N
product | (R)-N-((S)-5-cyclopropylmethyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-fluoro-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | C1(CC1)CN1C2=C(C3=C([C@@H](C1=O)NC([C@](C(=O)NCC(C(F)(F)F)(F)F)(C)F)=O)C=CC=C3)C=CC=C2 | C25H23F6N3O3
